US07105508B1
[4-(Aminomethyl)phenyl]guanidine (bishydrochloride) (59)
p-Aminobenzylamine (6.7 g; 54.84 mmol) was suspended in 20 ml of 6N HCl and, while refluxing, 5.3 g of cyanamide—dissolved in 5 ml of H2O—were slowly added dropwise. After the reaction was complete, 50% NaOH solution was added to the solution at 0° C., and the resulting precipitate was filtered off with suction, boiled in 50 ml of ethanol and filtered. Concentration of the mother liquor and stirring of the resulting residue with diethyl ether afforded 1.4 g of yellow solid; m.p.: 255° C.

reactant | p-Aminobenzylamine | 54.84 mmol, 6.7 g | NC1=CC=C(CN)C=C1 | C7H10N2
reactant | cyanamide | 5.3 g | N#CN | CH2N2
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 6N, 20 ml | Cl | ClH
solvent | H2O | 5 ml | O | H2O
product | [4-(Aminomethyl)phenyl]guanidine | 1.4 g | NCC1=CC=C(C=C1)NC(=N)N | C8H12N4
